US04077965
Thus obtained 5-acetamidomethyl-1,3,4-thiadiazole-2-thiol (44 g) was suspended in 6N hydrochloric acid (400 ml) and the mixture was heated to reflux for 2 hours. The reaction mixture was allowed to cool, and the precipitates were collected by filtration and washed with ethanol to give 5-aminomethyl-1,3,4-thiadiazole-2-thiol hydrochloride (28.3 g). m.p. 213° to 217° C. The mother liquid obtained above was concentrated under reduced pressure and the residue was washed with ether to give the same objective product (12.6 g). Total yield is 40.9 g.

reactant | 5-acetamidomethyl-1,3,4-thiadiazole-2-thiol | 44 g | C(C)(=O)NCC1=NN=C(S1)S | C5H7N3OS2
reactant | hydrochloric acid | 6N, 400 ml | Cl | ClH
product | 5-aminomethyl-1,3,4-thiadiazole-2-thiol hydrochloride | 28.3 g | Cl.NCC1=NN=C(S1)S | InChI=1S/C3H5N3S2.ClH/c4-1-2-5-6-3(7)8-2;/h1,4H2,(H,6,7);1H
